US05849259
a) 13,17-Bis-[4-(4-aminophenyl)-4-oxabutyl]-3,8-diethyl-2,7,12,18-tetramethylporphyrin
3.28 g (30.10 mmol) of 4-aminophenol and 1.69 g (30.10 mmol) of powdered potassium hydroxide are stirred in 50 ml of anhydrous dimethylformamide under argon for 30 minutes at room temperature and then mixed with 2.00 g (3.01 mmol) of 13,17-bis-(3-bromopropyl)-3,8-diethyl-2,7,12,18-tetramethylporphyrin (CA RN 112635-99-1). After 30 hours of stirring at room temperature, it is filtered, substantially concentrated by evaporation in a vacuum, the residue is taken up in methylene chloride and shaken out once each with water and with saturated aqueous sodium bicarbonate solution. The organic phase is dried on sodium sulfate, filtered and concentrated by evaporation and the residue is chromatographed to aluminum oxide with methylene chloride/methanol. After the concentration by evaporation, the product is obtained as reddish brown solid, which can be recrystallized from methylene chloride/ether.

reactant | 4-aminophenol | 30.10 mmol, 3.28 g | NC1=CC=C(C=C1)O | C6H7NO
reactant | potassium hydroxide | 30.10 mmol, 1.69 g | [OH-].[K+]
reactant | 13,17-bis-(3-bromopropyl)-3,8-diethyl-2,7,12,18-tetramethylporphyrin | 3.01 mmol, 2.00 g | BrCCCC1=C(C2=CC=3C(=C(C(=CC4=C(C(=C(N4)C=C4C(=C(C(C=C1N2)=N4)CCCBr)C)C)CC)N3)C)CC)C | C34H40Br2N4
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 13,17-Bis-[4-(4-aminophenyl)-4-oxabutyl]-3,8-diethyl-2,7,12,18-tetramethylporphyrin | NC1=CC=C(C=C1)OCCCC1=C(C2=CC=3C(=C(C(=CC4=C(C(=C(N4)C=C4C(=C(C(C=C1N2)=N4)CCCOC4=CC=C(C=C4)N)C)C)CC)N3)C)CC)C | C46H52N6O2
